US04234744
14.64 grams of 2-bromo-4-methyl valeric acid methyl ester were brought to reaction with potassium cyanate and methanol in the manner described in Example 1 (using the same amounts of potassium cyanate and methanol as in Example 1 ), reaction time 1 hour and then worked up. There were obtained 9.39 grams (66%) of 2-methoxycarbonylamino-4-methyl valeric acid methyl ester with a boiling point of 100° C./0.0013 mbar.

reactant | 2-bromo-4-methyl valeric acid methyl ester | 14.64 grams | COC(C(CC(C)C)Br)=O | C7H13BrO2
reactant | potassium cyanate | [O-]C#N.[K+]
reactant | methanol | CO | CH4O
product | 2-methoxycarbonylamino-4-methyl valeric acid methyl ester | 9.39 grams, 66% | COC(C(CC(C)C)NC(=O)OC)=O | C9H17NO4
